US04550105
In 80 ml of methylene chloride is dissolved 7.68 g of N-[1-methyl-1-(p-nitrobenzyloxycarbonyl)ethyloxy]phthalimide and under ice-cooling and stirring 0.97 ml of hydrazine hydrate is added. The mixture is stirred at room temperature for 2 hours, after which 0.97 ml of hydrazine hydrate is further added. The mixture is stirred for 3 hours and the resultant crystalline precipitate is separated by filtration and washed with methylene chloride. The filtrate and washings are combined and further washed with diluted aqueous ammonia and water in this order, and dried over anhydrous magnesium sulfate. The solvent is then distilled off under reduced pressure and the residue is chromatographed on a silica gel column [silica gel: 300 g; eluent: ethyl acetate-hexane (1:1)] to give 4.58 g of O-[1-methyl-1-(p-nitrobenzyloxycarbonyl)ethyl]hydroxylamine as a yellow oil. This product solidifies on cooling.

reactant | N-[1-methyl-1-(p-nitrobenzyloxycarbonyl)ethyloxy]phthalimide | 7.68 g | CC(C)(ON1C(C=2C(C1=O)=CC=CC2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-] | C19H16N2O7
reactant | hydrazine hydrate | 0.97 ml | O.NN
reactant | hydrazine hydrate | 0.97 ml | O.NN
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | O-[1-methyl-1-(p-nitrobenzyloxycarbonyl)ethyl]hydroxylamine | 4.58 g | CC(C)(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])ON | C11H14N2O5
